US08609686B2
2-Amino-6-mercapto-4-(methylthio)pyridine-3,5-dicarbonitrile
10 g (58.74 mmol) of 2-(di(methylthio))methylidenemalononitrile and 7.1 g (70.48 mmol) of cyanothioacetamide were initially charged in 21 ml of DMF, and 16.4 ml (117.47 mmol) of triethylamine were added dropwise at room temperature. The mixture was stirred at room temperature for 8 h. The reaction mixture was added to 300 ml of 3N hydrochloric acid. The resulting precipitate was filtered off with suction, washed with water and dried. This gave the product as a powder.

reactant | 2-(di(methylthio))methylidenemalononitrile | 58.74 mmol, 10 g | CSC(=C(C#N)C#N)SC | C6H6N2S2
reactant | cyanothioacetamide | 70.48 mmol, 7.1 g | C(#N)CC(=S)N | C3H4N2S
reactant | triethylamine | 117.47 mmol, 16.4 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 3N, 300 ml | Cl | ClH
solvent | DMF | 21 ml | CN(C)C=O | C3H7NO
product | 2-Amino-6-mercapto-4-(methylthio)pyridine-3,5-dicarbonitrile | NC1=NC(=C(C(=C1C#N)SC)C#N)S | C8H6N4S2
